US07144885B2
Step 1: Preparation of 7-Methoxy-2,2-dimethyl-chroman
A solution of precocene I (5.0 g, 26.3 mmol) in EtOH (200 mL) was hydrogenated by using 10% Pd/C (0.5 g) as catalyst. The catalyst was filtered of and EtOH was removed under reduced pressure. The crude material was then washed with dichloromethane (2×50 mL) to afford the desired product as white solid (4.55 g, 90%). 1H-NMR (CD3CN) δ 6.97 (d, J=8.0 Hz, 1H), 6.42 (d, J=8.0 Hz, 1H), 6.27 (s, 1H), 3.74 (s, 3 H), 2.72 (t, 2 H), 1.80 (t, 2 H), 1.32 (s, 6 H); MS LC-MS (MH+=193).

reactant | precocene I | 26.3 mmol, 5.0 g | CC1(C=CC2=C(O1)C=C(C=C2)OC)C | C12H14O2
solvent | EtOH | 200 mL | CCO | C2H6O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 7-Methoxy-2,2-dimethyl-chroman | 4.55 g, 90% | COC1=CC=C2CCC(OC2=C1)(C)C | C12H16O2
